US04017639
3-(3',4'-Diethylenzoyl) propanoic acid (m.p. 93° C, prepared by the acylation of 1,2-diethyl benzene with succinic anhydride) was catalytically reduced to 4-(3',4'-diethylphenyl) butanoic acid (b.p.0.7 143°-147° C). A mixture of this acid (59g; 0.27 mole) and 85% polyphosphoric acid (450g) was warmed to 80° C with stirring for 30 mins. and worked up as in example 8(a) to yield 48.30g (89%) of 6,7-diethyl-1-tetralone, b.p.0.7 118°-122° C. (Found; C, 82.95; H, 9.21; C14H18O requires; C, 83.12;H, 8.97%). Alternatively 4-(3', 4'-diethylphenyl )butanoic acid (23.3g; 0.106 mole) may be cyclised by stirring at 100° C with 80% sulphuric acid (115ml) for 11/2 hrs. After dilution, extraction into ether and distillation 15.53g (74%) of the tetralone was recovered.

reactant | propanoic acid | C(CC)(=O)O | C3H6O2
reactant | 1,2-diethyl benzene | C(C)C1=C(C=CC=C1)CC | C10H14
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | 4-(3',4'-diethylphenyl) butanoic acid | C(C)C=1C=C(C=CC1CC)CCCC(=O)O | C14H20O2
product | 6,7-diethyl-1-tetralone | 48.30g, 89% | C(C)C=1C=C2CCCC(C2=CC1CC)=O | C14H18O
